US09353083B2
900 mg (1.44 mmol) of N-[(R)-2-[3-(4-benzyloxybutoxy)-3-o-tolylazetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide are dissolved in 100 ml of acetic acid. 90 mg of 20% palladium hydroxide dispersed on active charcoal are added and the mixture is placed under a dihydrogen atmosphere and stirred for 1 hour at room temperature. The reaction medium is filtered through a layer of Celite and then concentrated to dryness. The crude residue obtained is purified by chromatography on silica gel eluted with an 85/15 dichloromethane/methanol mixture. 440 mg of N-[(R)-2-[3-(4-hydroxybutoxy)-3-o-tolylazetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide are obtained in the form of a white solid, in a yield of 67%.

reactant | N-[(R)-2-[3-(4-benzyloxybutoxy)-3-o-tolylazetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide | 1.44 mmol, 900 mg | C(C1=CC=CC=C1)OCCCCOC1(CN(C1)C([C@@H](CC1=CC=C(C=C1)OC)NC(CCC=1N=CNC1)=O)=O)C1=C(C=CC=C1)C | C37H44N4O5
reactant | charcoal | C | CH4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide | 90 mg | [OH-].[Pd+2].[OH-]
product | N-[(R)-2-[3-(4-hydroxybutoxy)-3-o-tolylazetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide | 440 mg, yield of 67% | OCCCCOC1(CN(C1)C([C@@H](CC1=CC=C(C=C1)OC)NC(CCC=1N=CNC1)=O)=O)C1=C(C=CC=C1)C | C30H38N4O5
